US07001897B2
To a solution of 1-(4-p-nitrobenzyloxycarbonyl-1,3-thiazol-2-yl)-3-hydroxyazetidine (648 mg, 1.93 mmol) (obtained as described in Reference Example 2(6)) in methylene chloride (20 ml) were added methanesulfonyl chloride (0.31 ml, 3.95 mmol) and triethylamine (0.55 ml, 3.95 mmol) in an ice bath. After stirring the mixture in the ice bath for 10 minutes, the mixture was stirred at room temperature for 3 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from a mixture of n-hexane and ethyl acetate to afford 1-(4-p-nitrobenzyloxycarbonyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (789 mg, yield 99%) as a white solid.

reactant | 1-(4-p-nitrobenzyloxycarbonyl-1,3-thiazol-2-yl)-3-hydroxyazetidine | 1.93 mmol, 648 mg | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N=C(SC2)N2CC(C2)O)C=C1 | C14H13N3O5S
reactant | methanesulfonyl chloride | 3.95 mmol, 0.31 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.95 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-p-nitrobenzyloxycarbonyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 789 mg, yield 99% | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N=C(SC2)N2CC(C2)OS(=O)(=O)C)C=C1 | C15H15N3O7S2
